data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
839,909,[CH3:1][C:2]#[C:3][O:4][CH3:5].[CH3:6][C:7](=[O:8])[C-:9]([c:10]1[cH:11][cH:12][cH:13][cH:14][cH:15]1)[N+:16]([CH3:17])=[CH:18][c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1>>[CH3:1][C:2]1=[C:3]([O:4][CH3:5])[C:9]([C:7]([CH3:6])=[O:8])([c:10]2[cH:11][cH:12][cH:13][cH:14][cH:15]2)[N:16]([CH3:17])[CH:18]1[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,23.07325745521852,-47.61013591040648
2315,2571,[CH3:15][C:16](=[O:17])[C:18]([c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1)=[N+:25]([CH3:26])[CH-:27][c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1.[CH3:1][NH:2][C:3](=[O:4])[CH:5]1[C:6]#[C:7][C:8]([CH3:9])([CH3:10])[CH2:11][CH2:12][CH2:13][CH2:14]1>>[CH3:1][NH:2][C:3](=[O:4])[CH:5]1[C:6]2=[C:7]([C:8]([CH3:9])([CH3:10])[CH2:11][CH2:12][CH2:13][CH2:14]1)[C:18]([C:16]([CH3:15])=[O:17])([c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1)[N:25]([CH3:26])[CH:27]2[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1,water,298.15,23.54244863521225,-32.7578804011996
1776,1967,[CH3:15][O:16][C:17](=[O:18])[CH-:19][O+:20]=[C:21]([C:22]#[N:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH2:11][CH2:12][CH:13]1[CH2:14]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([C:7]([CH3:8])=[O:9])([CH:10]3[CH2:11][CH2:12][CH:13]1[CH2:14]3)[CH:19]([C:17]([O:16][CH3:15])=[O:18])[O:20][C:21]2([C:22]#[N:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1,water,298.15,20.113248830764068,-36.23373390720378
1327,1456,[CH2:18]=[NH+:19][C-:20]([C:21]#[N:22])[C:23](=[O:24])[O:25][CH3:26].[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH2:14][CH2:15][CH:16]1[CH2:17]2>>[F:1][C:2]([F:3])([F:4])[C:5]12[C:6]([c:7]3[cH:8][cH:9][cH:10][cH:11][cH:12]3)([CH:13]3[CH2:14][CH2:15][CH:16]1[CH2:17]3)[C:20]([C:21]#[N:22])([C:23](=[O:24])[O:25][CH3:26])[NH:19][CH2:18]2,water,298.15,21.625378884612,-3.2682128302125566
3719,4247,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][NH:10][C:11](=[O:12])[C:13](=[NH+:14][N-:15][C:16]#[N:17])[C:18]([CH3:19])=[O:20]>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[N:15]([C:16]#[N:17])[NH:14][C:13]2([C:11]([NH:10][CH3:9])=[O:12])[C:18]([CH3:19])=[O:20],water,298.15,20.692588677320547,-4.137212916093325
4234,4844,[CH3:10][NH:11][C:12](=[O:13])[C:14](=[NH+:15][CH-:16][C:17]#[N:18])[C:19](=[O:20])[O:21][CH3:22].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[CH:16]([C:17]#[N:18])[NH:15][C:14]1([C:12]([NH:11][CH3:10])=[O:13])[C:19](=[O:20])[O:21][CH3:22],water,298.15,22.88716279534253,-13.180202797561323
4940,5626,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][O:16][C:17](=[O:18])[CH-:19][O+:20]=[C:21]([CH3:22])[C:23](=[O:24])[O:25][CH3:26]>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[CH:19]([C:17]([O:16][CH3:15])=[O:18])[O:20][C:21]2([CH3:22])[C:23](=[O:24])[O:25][CH3:26],water,298.15,12.408042036274203,-40.71590533123396
3254,3677,[CH3:9][NH:10][C:11](=[O:12])[C:13]#[N+:14][N-:15][C:16]#[N:17].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@@H:5]([C:6](=[O:7])[O-:8])[N:15]([C:16]#[N:17])[N:14]=[C:13]1[C:11]([NH:10][CH3:9])=[O:12],water,298.15,14.561312300665712,-46.58506435439133
3029,3386,[CH2:1]=[CH2:2].[N:3]#[C:4][CH:5]=[O+:6][C-:7]([C:8]#[N:9])[c:10]1[cH:11][cH:12][cH:13][cH:14][cH:15]1>>[CH2:1]1[CH2:2][C:7]([C:8]#[N:9])([c:10]2[cH:11][cH:12][cH:13][cH:14][cH:15]2)[O:6][CH:5]1[C:4]#[N:3],water,298.15,6.267286636492439,-56.52696738195139
185,202,[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2.[CH:13]#[N+:14][CH-:15][C:16]([CH3:17])=[O:18]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[CH:13]=[N:14][CH:15]3[C:16]([CH3:17])=[O:18],water,298.15,10.664670419674458,-59.62715890236564
2619,2902,[CH3:19][NH:20][C:21](=[O:22])[C:23]([C:24]#[N:25])=[O+:26][C-:27]([C:28](=[O:29])[O:30][CH3:31])[c:32]1[cH:33][cH:34][cH:35][cH:36][cH:37]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1([O:6][CH3:7])[C:8]#[C:9][C:10]([C:11]#[N:12])([C:13]#[N:14])[CH2:15][CH2:16][CH2:17][CH2:18]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([O:6][CH3:7])[C:8]2=[C:9]([C:10]([C:11]#[N:12])([C:13]#[N:14])[CH2:15][CH2:16][CH2:17][CH2:18]1)[C:27]([C:28](=[O:29])[O:30][CH3:31])([c:32]1[cH:33][cH:34][cH:35][cH:36][cH:37]1)[O:26][C:23]2([C:21]([NH:20][CH3:19])=[O:22])[C:24]#[N:25],water,298.15,9.17785426176908,-62.85753572201687
